*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-02 19:07:04
*********************************************************

.SUBCKT pam4drv_pam4_lay sub msbn lsbp vcmb lsbn msbp tmsb0 tmsb1 tlsb0 vcasc outp outn vcc
XQ_1 \$37 msbp \$10 sub npn13G2 Nx=3
XQ_2 \$38 msbn \$11 sub npn13G2 Nx=3
XQ_3 \$39 msbp \$12 sub npn13G2 Nx=3
XQ_4 \$40 msbn \$13 sub npn13G2 Nx=3
XQ_5 \$41 lsbp \$14 sub npn13G2 Nx=3
XQ_6 \$42 lsbn \$15 sub npn13G2 Nx=3
XQ_7 outp vcasc \$37 sub npn13G2 Nx=3
XQ_8 outn vcasc \$38 sub npn13G2 Nx=3
XQ_9 outp vcasc \$39 sub npn13G2 Nx=3
XQ_10 outn vcasc \$40 sub npn13G2 Nx=3
XQ_11 outp vcasc \$41 sub npn13G2 Nx=3
XQ_12 outn vcasc \$42 sub npn13G2 Nx=3
XR_13 vcmb lsbp sub rsil w=0.64u l=3.1u m=1
XR_14 vcmb lsbn sub rsil w=0.64u l=3.1u m=1
XR_15 vcmb msbp sub rsil w=0.64u l=3.1u m=1
XR_16 vcmb msbn sub rsil w=0.64u l=3.1u m=1
XR_17 tmsb0 \$10 sub rsil w=5.56u l=1.29u m=1
XR_18 tmsb0 \$11 sub rsil w=5.56u l=1.29u m=1
XR_19 tmsb1 \$12 sub rsil w=5.56u l=1.29u m=1
XR_20 tmsb1 \$13 sub rsil w=5.56u l=1.29u m=1
XR_21 tlsb0 \$14 sub rsil w=5.56u l=1.29u m=1
XR_22 tlsb0 \$15 sub rsil w=5.56u l=1.29u m=1
XR_23 outp vcc sub rsil w=1.52u l=10.02u m=1
XR_24 outn vcc sub rsil w=1.52u l=10.02u m=1
Cext_1 \$10 \$11 1.02539f
Cext_2 \$10 \$37 1.34032f
Cext_3 \$10 \$38 24.134a
Cext_4 \$10 msbn 3.22087a
Cext_5 \$10 msbp 739.496a
Cext_6 \$10 sub 11.2617a
Cext_7 \$10 tmsb0 253.465a
Cext_8 \$10 vcasc 13.3269a
Cext_9 \$10 sub 3.12182f
Cext_10 \$11 \$37 4.43278a
Cext_11 \$11 \$38 1.32759f
Cext_12 \$11 msbn 732.097a
Cext_13 \$11 msbp 12.961a
Cext_14 \$11 sub 4.68592a
Cext_15 \$11 tmsb0 251.51a
Cext_16 \$11 vcasc 8.50532a
Cext_17 \$11 sub 3.04277f
Cext_18 \$12 \$13 1.02539f
Cext_19 \$12 \$39 1.34032f
Cext_20 \$12 \$40 24.134a
Cext_21 \$12 msbn 3.22087a
Cext_22 \$12 msbp 739.291a
Cext_23 \$12 sub 4.68592a
Cext_24 \$12 tmsb1 253.465a
Cext_25 \$12 vcasc 13.3269a
Cext_26 \$12 sub 3.12408f
Cext_27 \$13 \$39 4.43278a
Cext_28 \$13 \$40 1.32759f
Cext_29 \$13 msbn 732.097a
Cext_30 \$13 msbp 2.16369a
Cext_31 \$13 sub 4.68592a
Cext_32 \$13 tmsb1 251.51a
Cext_33 \$13 vcasc 8.50532a
Cext_34 \$13 sub 3.04277f
Cext_35 \$14 \$15 1.02539f
Cext_36 \$14 \$41 1.34032f
Cext_37 \$14 \$42 24.134a
Cext_38 \$14 lsbn 3.22087a
Cext_39 \$14 lsbp 728.381a
Cext_40 \$14 sub 4.68592a
Cext_41 \$14 tlsb0 253.465a
Cext_42 \$14 vcasc 13.3269a
Cext_43 \$14 sub 3.12545f
Cext_44 \$15 \$41 4.43278a
Cext_45 \$15 \$42 1.32759f
Cext_46 \$15 lsbn 732.097a
Cext_47 \$15 lsbp 2.16369a
Cext_48 \$15 sub 8.71644a
Cext_49 \$15 tlsb0 251.51a
Cext_50 \$15 vcasc 8.50532a
Cext_51 \$15 sub 3.04223f
Cext_52 \$37 msbp 50.8262a
Cext_53 \$37 outp 733.343a
Cext_54 \$37 sub 19.9701a
Cext_55 \$37 vcasc 750.479a
Cext_56 \$37 sub 2.25299f
Cext_57 \$38 msbn 50.8262a
Cext_58 \$38 outn 668.615a
Cext_59 \$38 outp 64.565a
Cext_60 \$38 sub 27.2059a
Cext_61 \$38 vcasc 761.314a
Cext_62 \$38 sub 2.24437f
Cext_63 \$39 msbp 50.8262a
Cext_64 \$39 outp 748.424a
Cext_65 \$39 sub 27.2059a
Cext_66 \$39 vcasc 761.314a
Cext_67 \$39 sub 2.24437f
Cext_68 \$40 msbn 50.8262a
Cext_69 \$40 outn 668.615a
Cext_70 \$40 outp 64.565a
Cext_71 \$40 sub 27.2059a
Cext_72 \$40 vcasc 761.314a
Cext_73 \$40 sub 2.24437f
Cext_74 \$41 lsbp 50.8262a
Cext_75 \$41 outp 733.343a
Cext_76 \$41 sub 27.2059a
Cext_77 \$41 vcasc 761.314a
Cext_78 \$41 sub 2.24437f
Cext_79 \$42 lsbn 50.8262a
Cext_80 \$42 outn 668.615a
Cext_81 \$42 sub 15.6156a
Cext_82 \$42 vcasc 743.892a
Cext_83 \$42 sub 2.25999f
Cext_84 lsbn lsbp 409.758a
Cext_85 lsbn msbn 31.1357a
Cext_86 lsbn msbp 67.1792a
Cext_87 lsbn sub 27.5448a
Cext_88 lsbn tlsb0 77.3695a
Cext_89 lsbn vcmb 117.893a
Cext_90 lsbp msbn 394.262a
Cext_91 lsbp msbp 56.8508a
Cext_92 lsbp tlsb0 77.3695a
Cext_93 lsbp vcmb 8.69481a
Cext_94 msbn msbp 664.85a
Cext_95 msbn tmsb0 77.5287a
Cext_96 msbn tmsb1 119.98a
Cext_97 msbn vcmb 8.69481a
Cext_98 msbp sub 22.9984a
Cext_99 msbp tmsb0 261.456a
Cext_100 msbp tmsb1 207.353a
Cext_101 msbp vcmb 8.69481a
Cext_102 outn outp 1.70285f
Cext_103 outn sub 138.643a
Cext_104 outn vcasc 152.2a
Cext_105 outn vcc 1.91415a
Cext_106 outp sub 179.623a
Cext_107 outp vcasc 233.845a
Cext_108 outp vcc 1.91415a
Cext_109 sub tlsb0 9.2577a
Cext_110 sub tmsb0 10.5322a
Cext_111 sub vcasc 372.647a
Cext_112 sub vcc 135.504a
Cext_113 sub vcmb 886.387a
Cext_114 sub lsbn 5.22336f
Cext_115 sub lsbp 3.89777f
Cext_116 sub msbn 5.96944f
Cext_117 sub msbp 6.46919f
Cext_118 sub outn 11.8901f
Cext_119 sub outp 11.0602f
Cext_120 sub sub 45.4296f
Cext_121 sub tlsb0 4.04723f
Cext_122 sub tmsb0 4.04556f
Cext_123 sub tmsb1 4.03452f
Cext_124 sub vcasc 7.01373f
Cext_125 sub vcc 3.85538f
Cext_126 sub vcmb 9.59202f
XCdeg_r0 \$10 \$11 cap_cmim w=3.33u l=3.33u
XCdeg_r1 \$12 \$13 cap_cmim w=3.33u l=3.33u
XCdeg_r2 \$14 \$15 cap_cmim w=3.33u l=3.33u
.ENDS pam4drv_pam4_lay
